US04192888
N-Acetyl-5-nitro-2-indanamine, 1.5 g. (0.007 mole) as prepared in Example 9 was refluxed in 10% hydrochloric acid for 3 hours. The mixture was evaporated and the crystalline residue recrystallized from methanol-ether to yield 5-nitro-2-indanamine hydrochloride, dec.>280° C.

reactant | N-Acetyl-5-nitro-2-indanamine | C(C)(=O)NC1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C11H12N2O3
reactant | hydrochloric acid | Cl | ClH
product | 5-nitro-2-indanamine hydrochloride | Cl.[N+](=O)([O-])C=1C=C2CC(CC2=CC1)N | InChI=1S/C9H10N2O2.ClH/c10-8-3-6-1-2-9(11(12)13)5-7(6)4-8;/h1-2,5,8H,3-4,10H2;1H
